US07893099B2
Step 7: (1S,2R,4R) and (1R,2S,4S)-4-(4-Bromo-2-trifluoromethyl-benzenesulfonyl)-2-(tetrahydro-pyran-4-yloxy)-cyclopentanecarbonitrile
A mixture of (1S,2R,4R) and (1R,2S,4S)-4-(4-bromo-2-trifluoromethyl-phenylsulfanyl)-2-(tetrahydro-pyran-4-yloxy)-cyclopentanecarbonitrile (345 mg, 0.766 mmol) and mCPBA (472 mg, 70%, 1.915 mmol) in DCM (10 ml) was stirred at room temperature overnight. The mixture was diluted with water and extracted 2 times with DCM. The combined extracts were washed with 15% Na2SO3 solution, saturated NaHCO3 solution, dried (Na2SO4) and evaporated. The remaining colorless solid (370 mg) was used in the next reaction step without further purification. MS (EI): 482.0 (M+H)+.

reactant | (1R,2S,4S)-4-(4-bromo-2-trifluoromethyl-phenylsulfanyl)-2-(tetrahydro-pyran-4-yloxy)-cyclopentanecarbonitrile | 0.766 mmol, 345 mg | BrC1=CC(=C(C=C1)S[C@@H]1C[C@@H]([C@H](C1)C#N)OC1CCOCC1)C(F)(F)F | C18H19BrF3NO2S
reactant | mCPBA | 1.915 mmol, 472 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (1R,2S,4S)-4-(4-Bromo-2-trifluoromethyl-benzenesulfonyl)-2-(tetrahydro-pyran-4-yloxy)-cyclopentanecarbonitrile | BrC1=CC(=C(C=C1)S(=O)(=O)[C@@H]1C[C@@H]([C@H](C1)C#N)OC1CCOCC1)C(F)(F)F | C18H19BrF3NO4S
